US06139770
The photoinitiator dibenzoyl biphenyl was prepared by placing 200 mL nitrobenzene, 38.5 g (0.25 mole) biphenyl, and 140.6 g (1.00 mole) benzoyl chloride into a 1 liter 3-necked flask equipped with a water condenser. While stirring, 160 g (1.2 mole) aluminum trichloride was added slowly over a period of about 30 minutes. During the reaction, the temperature increased from 30° C. to 55° C. The color changed from yellowish to light brown, then reddish. The flask was kept in a water bath at a temperature of 55° C. to 60° C. for 3 hours while stirring. The reaction mixture was then cooled to 35° C. The reaction mixture was poured into 1.2 L of 8% HCl solution with vigorous stirring. The organic layer was separated and poured into a blender and 500 mL n-hexane was added. The mixture was vigorously stirred for 5 minutes and then filtered. The solid was washed with n-hexane. The thus-produced dibenzoyl biphenyl was dried and recrystalized twice in chloroform.

reactant | biphenyl | 0.25 mole, 38.5 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | benzoyl chloride | 1.00 mole, 140.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum trichloride | 1.2 mole, 160 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 1.2 L | Cl | ClH
solvent | nitrobenzene | 200 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | dibenzoyl biphenyl | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C26H18O2
